US04185115
Preparation of 2-(2-Thienyl)ethanol O-Methanesulfonate
A mixture of 12.8 g. of 2-(2-thienyl)ethanol, 450 ml. of dichloromethane and 20.2 g. of triethylamine is chilled to -10° C. and 12.8 g. of cold methanesulfonyl chloride is added dropwise over 30 minutes. After stirring for 1 hour, the mixture is washed with 300 ml. of cold water, 300 ml. of cold 10% hydrochloric acid, 300 ml. of cold saturated sodium bicarbonate, and 300 ml. of cold saturated sodium chloride solution. The organic layer is dried over magnesium sulfate and concentrated under vacuum to give the product as an oil.

reactant | 2-(2-thienyl)ethanol | S1C(=CC=C1)CCO | C6H8OS
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(2-Thienyl)ethanol O-Methanesulfonate | CS(=O)(=O)OCCC=1SC=CC1 | C7H10O3S2
